Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Fall from horse
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
___ y/o female s/p fall from horse with loss of consciousness. 
She remembers being riding the horse but does not recall 
falling. The next thing she remembers is waking in the ED of 
___. Imaging studies were performed which 
were concerning for a C2 fracture and she was transferred
to the ED at ___ for further evaluation. 

She endorses back pain which is located medially in the thoracic 
region. She denies neck pain. She denies pain, numbness, 
tingling, or weakness of the upper and lower extremities 
bilaterally. She denies saddle anesthesia, rectal or urinary 
incontinence. 

 
Past Medical History:
___ Syndrome
She reports an extensive PMH but does not expand
 
Social History:
___
Family History:
Denies family history of spinal conditions.
 
Physical Exam:
Admission Physical Exam:

T: 98.3  BP: 131/81  HR: 115    RR: 22   O2Sats 99% RA
Gen: Lying on stretcher, no acute distress. Hard cervical collar
in place. 
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.

Discharge Physical Exam:
VS:
GEN:
CV:
PULM:
ABD:
EXT:
 
Pertinent Results:
IMAGING:

___: CXR:
Limited, negative.

___: CT Chest:
1. No acute sequelae of trauma in the chest.  Motion artifact 
limits 
assessment. 
2. Please refer to outside hospital CT of the abdomen pelvis for 
further 
detail regarding splenic laceration with perisplenic hematoma, 
left 
perinephric hematoma, left adrenal nodule and complex cystic 
mass involving the pancreatic distal body. 
  
RECOMMENDATION(S):  MRCP to further assess pancreatic lesion, 
also for further characterize a shin of left adrenal lesion can 
be performed on a nonemergent basis. 

___: Left Shoulder x-ray:
No acute findings.

___: Right Foot x-ray:
Congenital anomalies without definite fracture.

___: Right Hand x-ray:
 
1. Possible fracture involving the proximal phalanx of the thumb 
best seen on the lateral view. 
2. Congenital deformity reflecting ___ syndrome. 

LABS:

___ 10:13PM   WBC-15.2* RBC-3.64* HGB-10.9* HCT-32.6* 
MCV-90 MCH-29.9 MCHC-33.4 RDW-13.2 RDWSD-43.5
___ 10:13PM   NEUTS-88.3* LYMPHS-6.2* MONOS-4.7* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-13.45* AbsLymp-0.94* AbsMono-0.72 
AbsEos-0.00* AbsBaso-0.03
___ 10:13PM   PLT COUNT-466*
___ 10:07PM URINE  UCG-NEGATIVE
___ 10:07PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:07PM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 10:07PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-80* BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:07PM URINE  RBC-87* WBC-9* BACTERIA-NONE YEAST-NONE 
EPI-1
___ 10:07PM URINE  MUCOUS-RARE*
___ 07:38PM   GLUCOSE-140* LACTATE-1.7 CREAT-0.6 NA+-137 
K+-4.1 CL--108 TCO2-26
___ 07:38PM   HGB-12.0 calcHCT-36
___ 07:20PM   GLUCOSE-137* UREA N-11 CREAT-0.6 SODIUM-140 
POTASSIUM-4.8 CHLORIDE-104 TOTAL CO2-17* ANION GAP-19*
___ 07:20PM   LIPASE-26
___ 07:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 07:20PM   ___ PTT-23.8* ___
 
Brief Hospital Course:
___ y/o female s/p fall from horse with loss of consciousness. 
She remembers riding the horse but does not recall
falling. The next thing she remembers is waking in the ED of
___. Patient was helmeted. Positive head
strike. Positive loss of consciousness. Patient is amnestic to
the events. Imaging studies were performed which were concerning
for a C2 fracture and she was transferred to the ED at ___ for
further evaluation. 
Her injuries were C2 transverse process fracture, mild grade 1 
left splenic/kidney laceration/hematoma. Her blood count was 
stable throughout her hospitalization. She was followed by 
neurosurgery who recommended hard collar at all times, except 
when showering. Patient will follow-up with neurosurgery in 4 
weeks. Otherwise, patient did not have pain, she was ambulatory 
at baseline. Patient was tolerating a regular diet.
On ___, patient was discharge in stable condition. 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
Apply for 12 hours, then remove and leave off for 12 hours  
RX *lidocaine 5 % Apply one patch to area of left shoulder pain 
Every morning Disp #*7 Patch Refills:*1 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
fall off horse

 
Discharge Condition:
Patient discharged in stable condition
No mental status change
Ambulatory at baseline

 
Discharge Instructions:
Ms. ___ you came into the trauma bay after a fall off a 
horse, now you are ready for discharge.

Your injuries include right C2 transverse process fracture
Your other injuries are grade I left kidney hematoma, grade 2 
splenic ruptured cyst, as well as possible right thumb fracture.

For C2 transverse process fracture, you were followed by 
neurosurgery who recommended. 
-Hard cervical collar to be worn at all times, but okay to be 
discontinued for showers.
-Patient will follow-up Dr. ___ in clinic in 4 weeks. 

For the right thumb, if you have ongoing pain you can call hand 
surgery. 

Given mild splenic injury, please avoid horse back riding. 
Please avoid contact sports.

Lastly, on imaging we found left adrenal mass and pancreatic 
cystic lesion. You will follow up with endocrine surgery as well 
as the pancreatic surgery service. 

You will not need narcotics upon discharge. 
 
Followup Instructions:
___